US05376647
Tetraethyl 4-(phenylthio)butylaminomethylenebisphosphonate (11.1 g) was dissolved in concentrated hydrochloric acid (150 ml) and the mixture was refluxed for 2.5 hours. After the reaction mixture was concentrated under reduced pressure, water was poured and separated crystals were collected by filtration to obtain 4-(phenylthio)butylaminomethylenebisphosphonic acid (4.94 g) as a white powder. Sodium methylate (28% methanol solution, 13.3 g) was added to the suspension of this powder (4.08 g) in methanol (50 ml), and the resultant was stirred at room temperature for one hour and then concentrated under reduced pressure. Methanol was added to the residue, the separated white crystals were collected by filtration and recrystallized from water-methanol to obtain tetrasodium 4-(phenylthio)butylaminomethylenebisphosphonate as a white powder (3.90 g, 43% ).

reactant | Tetraethyl 4-(phenylthio)butylaminomethylenebisphosphonate | 11.1 g | C1(=CC=CC=C1)SCCCCNC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C19H35NO6P2S
solvent | hydrochloric acid | 150 ml | Cl | ClH
product | 4-(phenylthio)butylaminomethylenebisphosphonic acid | 4.94 g | C1(=CC=CC=C1)SCCCCNC(P(O)(O)=O)P(O)(O)=O | C11H19NO6P2S
